US08669280B2
Triethyl phosphonoacetate (4.05 mL, 202 mmol) was added dropwise to a stirred suspension of sodium hydride (0.80 g, 20 mmol) in anhydrous tetrahydrofuran (20 mL) at 0° C. under nitrogen. The mixture was stirred at 0° C. for 20 minutes. A solution of 2,3-methylenedioxybenzaldehyde (2.50 g, 16.7 mmol) in tetrahydrofuran (10 mL) was added dropwise at 0° C. The mixture was stirred for 2 hours during which time it was allowed to warm to room temperature. The mixture was poured into water (250 mL), and extracted with ethyl acetate (3×250 mL). The combined organic extracts were then washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed over silica gel. Elution with ethyl acetate/hexanes (1:10) gave ethyl 2,3-methylenedioxycinnamate as a colourless solid (3.50 g, 92%).

reactant | sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
reactant | 2,3-methylenedioxybenzaldehyde | 16.7 mmol, 2.50 g | C1OC2=C(C=O)C=CC=C2O1 | C8H6O3
reactant | water | 250 mL | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 2,3-methylenedioxycinnamate | 3.50 g, 92% | C1OC2=C(C=CC(=O)OCC)C=CC=C2O1 | C12H12O4
